US07776872B2
Toluene-4-sulfonic acid 2-(1-hydroxy-1-methyl-ethyl)-quinolin-3-yl ester (3.75 g, 10.5 mmol) was stirred in 50 mL of formic acid for 10 minutes, and zinc dust (3.43 g, 5.25 mmol) was added. The reaction mixture was stirred for four hours and then was added cautiously to a mixture of 100 mL aqueous saturated NaHCO3 and 100 g of ice. The resulting aqueous mixture was neutralized to pH7 by addition of aqueous saturated NaHCO3, and was extracted with ethyl acetate. The combined organic layers were washed with brine, dried (MgSO4) and concentrated under reduced pressure. The residue was purified by column chromatography using silica eluting with 10% ethyl acetate in hexanes to afford 1.35 g of toluene-4-sulfonic acid 2-isopropyl-quinolin-3-yl ester.

reactant | Toluene-4-sulfonic acid 2-(1-hydroxy-1-methyl-ethyl)-quinolin-3-yl ester | 10.5 mmol, 3.75 g | OC(C)(C)C1=NC2=CC=CC=C2C=C1OS(=O)(=O)C1=CC=C(C=C1)C | C19H19NO4S
reactant | NaHCO3 | 100 mL | C(=O)(O)[O-].[Na+]
solvent | formic acid | 50 mL | C(=O)O | CH2O2
catalyst | zinc | 5.25 mmol, 3.43 g | [Zn] | Zn
product | toluene-4-sulfonic acid 2-isopropyl-quinolin-3-yl ester | 1.35 g | C(C)(C)C1=NC2=CC=CC=C2C=C1OS(=O)(=O)C1=CC=C(C=C1)C | C19H19NO3S
